US07790720B2
Methyl 4-chloro-3-oxobutanoate (4.32 ml, 37.44 mmol, 2 eq) is added to a solution of 4-(3-chloropropoxy)benzamide (4 g, 18.72 mmol, 1 eq) in propionitrile (50 ml). The mixture is heated at reflux for 48 h. The mixture is then diluted with dichloromethane and filtered. The solvent is removed under vacuum and the residue is purified on silica gel (eluent: ethyl acetate) to give 2.8 g methyl {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetate ax62 as a brown oil.

reactant | Methyl 4-chloro-3-oxobutanoate | 37.44 mmol, 4.32 ml, 2 eq | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | 4-(3-chloropropoxy)benzamide | 18.72 mmol, 4 g, 1 eq | ClCCCOC1=CC=C(C(=O)N)C=C1 | C10H12ClNO2
solvent | propionitrile | 50 ml | C(CC)#N | C3H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetate | 2.8 g, Yield: 50% | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)CC(=O)OC | C15H16ClNO4
